US06025375
To a solution of (+)-methyl [3-[[(1S)-2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl]phenoxy]acetate (1.92 g) in ethanol (30 ml) was added 1N-aqueous sodium hydroxide (4.1 ml). The reaction mixture was stirred for 1 hour at room temperature. Ether (50 ml) was added to the solution. The precipitated solid was collected by filtration to afford (+)-sodium [3-[[(1S)-2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl]phenoxy]acetate (0.83 g).

reactant | (+)-methyl [3-[[(1S)-2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl]phenoxy]acetate | 1.92 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCC1)CC=1C=C(OCC(=O)OC)C=CC1 | C30H27NO4
reactant | sodium hydroxide | 4.1 ml | [OH-].[Na+]
reactant | Ether | 50 ml | CCOCC | C4H10O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (+)-sodium [3-[[(1S)-2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl]phenoxy]acetate | 0.83 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCC1)CC=1C=C(OCC(=O)[O-])C=CC1.[Na+] | InChI=1S/C29H25NO4.Na/c31-26(32)19-33-24-15-7-9-20(18-24)17-23-14-8-16-25(23)29-30-27(21-10-3-1-4-11-21)28(34-29)22-12-5-2-6-13-22;/h1-7,9-13,15-16,18,23H,8,14,17,19H2,(H,31,32);/q;+1/p-1/t23-;/m0./s1
